US06420409B1
A mixture of 1-(2-chloro-4-iodobenzyl)-6-(ethoxycarbonyl)-2-methylbenzimidazole (0.91 g), phenylacetylene (1.02 g), palladium acetate (II) (0.045 g), triphenylphosphine (0.105 g), tri n-butylamin (1.12 g), copper iodide (I) (0.038 g), and N,N-dimethylformamide (5 ml) was stirred for 1 hour at 70° C. and for 30 minutes at 100° C. After cooling the reaction solution, acetone was added thereto and the solution was filtrated with celite. The filtrate was concentrated and the resulting residue was dissolved in ethyl acetate followed by washing with 1N hydrochloric acid and a 10% aqueous solution of sodium hydroxide. The organic layer was dried and concentrated to obtain crude 1-(2-chloro-4-(phenylethynyl) benzyl)-6-(ethoxycarbonyl)-2-methylbenzimidazole. This product was immediately subjected to the next step.

reactant | 1-(2-chloro-4-iodobenzyl)-6-(ethoxycarbonyl)-2-methylbenzimidazole | 0.91 g | ClC1=C(CN2C(=NC3=C2C=C(C=C3)C(=O)OCC)C)C=CC(=C1)I | C18H16ClIN2O2
reactant | phenylacetylene | 1.02 g | C1(=CC=CC=C1)C#C | C8H6
reactant | triphenylphosphine | 0.105 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tri n-butylamin | 1.12 g | C(CCC)N(CCCC)CCCC | C12H27N
catalyst | palladium acetate | 0.045 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | copper iodide | 0.038 g | [Cu](I)I
solvent | acetone | CC(=O)C | C3H6O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(2-chloro-4-(phenylethynyl) benzyl)-6-(ethoxycarbonyl)-2-methylbenzimidazole | ClC1=C(CN2C(=NC3=C2C=C(C=C3)C(=O)OCC)C)C=CC(=C1)C#CC1=CC=CC=C1 | C26H21ClN2O2
